US07268133B2
Preparation of 3-(4-Chlorophenyl)-2-(2-chlorophenyl)-7-isopropoxy-2H-pyrazolo[4,3-d]pyrimidine (8A-1):
Sodium (21 mg, 0.9 mmol) was added to 2-propanol (2 ml), and the resultant mixture was stirred at 65° C. for 16 hours. Next, 7-chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-2H-pyrazolo[4,3-d]pyrimidine I-2A-1c (75 mg, 0.2 mmol) was added in one portion, and the mixture was stirred at 65° C. for 2 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was dried over anhydrous magnesium sulfate and concentrated. Purification of the residue by flash column chromatography (50% ethyl acetate in hexanes) provided the title compound 3-(4-chlorophenyl)-2-(2-chlorophenyl)-7-isopropoxy-2H-pyrazolo[4,3-d]pyrimidine 8A-1 (41 mg): MS: 399.1 (M+1)+; 1H NMR (400 MHz, CDCl3) δ 8.6 (s, 1H), 7.6 (d, J=6.6 Hz, 1H), 7.5 (m, 5H), 7.3 (d, J=8.7 Hz, 2H), 5.8 (pentuplet, J=6.2 Hz, 1H), 1.5 (d, J=6.2 Hz, 6H).

reactant | Sodium | 0.9 mmol, 21 mg | [Na] | Na
reactant | 7-chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-2H-pyrazolo[4,3-d]pyrimidine | 0.2 mmol, 75 mg | ClC=1C=2C(N=CN1)=C(N(N2)C2=C(C=CC=C2)Cl)C2=CC=C(C=C2)Cl | C17H9Cl3N4
reactant | 2-propanol | 2 ml | CC(C)O | C3H8O
product | 3-(4-chlorophenyl)-2-(2-chlorophenyl)-7-isopropoxy-2H-pyrazolo[4,3-d]pyrimidine | 41 mg | ClC1=CC=C(C=C1)C=1N(N=C2C1N=CN=C2OC(C)C)C2=C(C=CC=C2)Cl | C20H16Cl2N4O
